US07115611B2
In analogy to the procedure described in example 101A], 2-(3-fluoro-4-hydroxy-phenoxy)-2-methyl-propionic acid ethyl ester was reacted with 5-chloromethyl-4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine (example 27F]) in the presence of catalytic amount of sodium iodide to give 2-{4-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-3-fluoro-phenoxy}-2-methyl-propionic acid ethyl ester, which was subsequently saponified in analogy to the procedure described in example 101B] to yield the title compound as white crystals of mp. 177.5–178.0° C.

reactant | 2-(3-fluoro-4-hydroxy-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=CC(=C(C=C1)O)F)=O | C12H15FO4
reactant | 5-chloromethyl-4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine | ClCC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1 | C15H12ClF3N2
reactant | sodium iodide | [I-].[Na+]
product | 2-{4-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-3-fluoro-phenoxy}-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=CC(=C(C=C1)OCC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1)F)=O | C27H26F4N2O4
